US08664214B2
MnO2 (289 mg, 3.33 mmol) was added to a solution of (4-phenoxypyridin-3-yl)methanol (70 mg, 0.33 mmol) in THF (10 mL). After stiffing overnight the reaction mixture was filtered (celite). Removal of the solvent provided 4-phenoxynicotinaldehyde (70 mg, 95%). MS [M+H]+=200.1.

reactant | (4-phenoxypyridin-3-yl)methanol | 0.33 mmol, 70 mg | O(C1=CC=CC=C1)C1=C(C=NC=C1)CO | C12H11NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 3.33 mmol, 289 mg | O=[Mn]=O
product | 4-phenoxynicotinaldehyde | 70 mg, 95% | O(C1=CC=CC=C1)C1=CC=NC=C1C=O | C12H9NO2
